US09216173B2
A mixture of 7-chloro-5-methyl-thieno[2,3-c]-pyridine (100 mg, 0.544 mmol) and 2,4-dimethoxybenzylamine (0.245 mL, 1.63 mmol) in 1-methyl-2-pyrrolidinone (2 mL) was heated to 180° C. in an oil bath for 19 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (30 mL) and aqueous phosphate buffer (1.0 M, pH 7, 20 mL). The separated organics were sequentially washed with water (10 mL), aqueous phosphate buffer (1.0 M, pH 7, 10 mL), water (10 mL), and brine (10 mL). The organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (5-25% ethyl acetate/hexanes, linear gradient) to give N-(2,4-dimethoxybenzyl)-5-methylthieno[2,3-c]pyridin-7-amine. MS ESI calc'd. for C17H19N2O2S [M+H]+ 315. found 315.

reactant | 7-chloro-5-methyl-thieno[2,3-c]-pyridine | 0.544 mmol, 100 mg | ClC=1N=C(C=C2C1SC=C2)C | C8H6ClNS
reactant | 2,4-dimethoxybenzylamine | 1.63 mmol, 0.245 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | 1-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | phosphate | 1.0 M, 20 mL, pH 7 | P(=O)([O-])([O-])[O-]
product | N-(2,4-dimethoxybenzyl)-5-methylthieno[2,3-c]pyridin-7-amine | COC1=C(CNC=2N=C(C=C3C2SC=C3)C)C=CC(=C1)OC | C17H18N2O2S
